US09290485B2
d) 1-(4-((1H-pyrazol-1-yl)methyl)benzyl)-N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1H-imidazole-4-carboxamide
A mixture of [4,6-Dimethyl-5-({[1-(4-pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carbonyl]-amino}-methyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (260 mg, 0.37 mmol), 5 mL TFA and 10 mL DCM was stirred of room temperature for 1 h. The mixture was evaporated in vacuo and the residue was purified by preparative HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min). Aq. NaHCO3-solution was added to the product containing fractions and after evaporation the aq. layer was extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated to give the title compound. 1H-NMR (DMSO-d6, 400 MHz) 7.80 (s, 2H), 7.66-7.69 (m, 2H), 7.45 (s, 1H), 7.28 (d, 2H), 7.20 (d, 2H), 6.26 (s, 1H), 6.21 (s, 1H), 6.04 (s, 2H), 5.31 (s, 2H), 5.19 (s, 2H), 4.30 (d, 2H), 2.34 (s, 3H), 2.21 (s, 3H); LCMS (method A) RtA=0.832 min; [M+H]+=416.0

reactant | [4,6-Dimethyl-5-({[1-(4-pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carbonyl]-amino}-methyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.37 mmol, 260 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=CN(C1)CC1=CC=C(C=C1)CN1N=CC=C1)C)=O | C28H33N7O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-((1H-pyrazol-1-yl)methyl)benzyl)-N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1H-imidazole-4-carboxamide | N1(N=CC=C1)CC1=CC=C(CN2C=NC(=C2)C(=O)NCC=2C(=NC(=CC2C)N)C)C=C1 | C23H25N7O
